US06559174B2
Heteroaryl derivatives to replace 1,3-dihydro-2H-isoindole-1-carboxylate may be prepared as outlined in Scheme 2. 4-Hydroxy-(L)-proline derivative D is oxidized to 4-keto-(L)-proline E which is formylated and then treated with an appropriate hydrazine derivative to form pyrrolidinyl-pyrazole F. The ester in F is hydrolyzed and reacted with amino acid C followed by protecting group removal to form G. The pyrrolidine-amine in G is sulfonylated and the ester removed to form the desired product H.

reactant | 1,3-dihydro-2H-isoindole-1-carboxylate | C1(NCC2=CC=CC=C12)C(=O)[O-]
reactant | 4-Hydroxy-(L)-proline | OC1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | 4-keto-(L)-proline | O=C1C[C@H](NC1)C(=O)O | C5H7NO3
reactant | hydrazine | NN | H4N2
product | pyrrolidinyl-pyrazole | N1(CCCC1)C1=NNC=C1 | C7H11N3
